US05686455
2-(4-Aminomethylphenyl)-4-(4-fluorophenyl)-5-(4-pyridyl)-1H-imidazole
To a solution of 2-(4-cyanophenyl)4-(4-fluorophenyl)-5-(4-pyridyl)-1H-imidazole (2.5 g, 7.3 mmol) [See Ex. 1 above] in THF (50 mL) was added LiAlH4 (7.3 mL of 1M solution in THF, 7.3 mmol), and the resulting mixture was heated at reflux for 2 h, at which time tlc analysis indicated that the reaction was incomplete. Additional LiAlH4 (4.0 mL, 4.0 mmol) was added and heating was continued for 30 min. The mixture was allowed to cool, then poured into 2.5N NaOH and extracted with THF. The organic extract was washed with saturated aqueous NaCl and concentrated under reduced pressure. The residue was purified by flash chromatography, eluting with 9:1 CHCl3 /MeOH, followed by 90:10:1 CHCl3 /MeOH/NH3. The material that was isolated was triturated with Et2O to afford the title compound (1.5 g, 60%): mp 214°-215° C.

reactant | 2-(4-cyanophenyl)4-(4-fluorophenyl)-5-(4-pyridyl)-1H-imidazole | 7.3 mmol, 2.5 g | C(#N)C1=CC=C(C=C1)C=1NC(=C(N1)C1=CC=C(C=C1)F)C1=CC=NC=C1 | C21H13FN4
reactant | LiAlH4 | 7.3 mmol, 1M, 7.3 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | LiAlH4 | 4.0 mmol, 4.0 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | NaOH | 2.5N | [OH-].[Na+]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 2-(4-Aminomethylphenyl)-4-(4-fluorophenyl)-5-(4-pyridyl)-1H-imidazole | 1.5 g, 60% | NCC1=CC=C(C=C1)C=1NC(=C(N1)C1=CC=C(C=C1)F)C1=CC=NC=C1 | C21H17FN4
